US05622983
Tricyclo[3.3-1.13,7 ]dec-2-yl (±)-[1-(1H-indol-3-ylmethyl)-1-methyl-2-oxo-[[2-(2-quinolinyl)ethyl]amino]ethyl]carbamate
To a stirred solution of 2-adamantyloxycarbonyl-α-methyl-DL-tryptophan (1.59 g, 4.0 mmole) in dry THF (50 mL) at -22° C. was added N-methylmorpholine (0.644 g, 6.3 mmole) and isobutyl chloroformate (0.632 g, 4.6 mmole). The mixture was stirred at -22° C. for 1 hour and then a solution of 2-(2-aminoethyl)quinoline (0.690 g, 4.0 mmole) in dry THF (15 mL) was added. After stirring at this temperature 4 hours the reaction mixture was allowed to stir at room temperature 15 hours. The solvent was removed in vacuo and the residue was taken up in EtOAc and washed with 5% citric acid (2×50 mL), water (2×50 mL), 5% NaHCO3 (3×50 mL), water (2×50 mL), and brine (2×50 mL). The organic phase was dried over MgSO4 and the solvent evaporated. The residue was flash chromatographed on silica gel, eluting with EtOAc-n-hexane. The oil obtained was triturated with cold Et2O, yielding the product as an amorphous white solid, (0.38 g, 17%); 1H NMR (CDCl3) δ1.41-1.88 (17H, m), 3.00-3.04 (2H, m), 3.40 (2H, q, J 9.59 Hz), 3.68-3.70 (2H, m), 4.70 (1H, s), 5.43 (1H, br s), 6.90 (1H, d, J 2.23), 6.96-7.22 (4H, m), 7.45-7.55 (2H, m), 7.63-7.70 (2H, m), 7.78 (1H, d, J 8.06), 7.89 (2H, d, J 8.10), 8.03 (1H, d, J 8.46).

reactant | 2-adamantyloxycarbonyl-α-methyl-DL-tryptophan | 4.0 mmole, 1.59 g | C12C(C3CC(CC(C1)C3)C2)OC(=O)NC(CC2=CNC3=CC=CC=C23)(C(=O)O)C | C23H28N2O4
reactant | N-methylmorpholine | 6.3 mmole, 0.644 g | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 4.6 mmole, 0.632 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 2-(2-aminoethyl)quinoline | 4.0 mmole, 0.690 g | NCCC1=NC2=CC=CC=C2C=C1 | C11H12N2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | dec-2-yl (±)-[1-(1H-indol-3-ylmethyl)-1-methyl-2-oxo-[[2-(2-quinolinyl)ethyl]amino]ethyl]carbamate | 0.38 g, 17% | N1C=C(C2=CC=CC=C12)CC(C(=O)NCCC1=NC2=CC=CC=C2C=C1)(C)NC(OC(C)CCCCCCCC)=O | C34H44N4O3
